US08859534B2
N-(1-(Pyridin-2-yl)ethyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide
The compound was prepared according to the procedure disclosed in Example 1 starting from lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate (60 mg, 0.16 mmol) and 1-(pyridin-2-yl)ethanamine (23 mg, 0.19 mmol). Yield: 20 mg (25%).

reactant | lithium 7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxylate | 0.16 mmol, 60 mg | N1=C(C=CC=C1)CCN1CCN(CC1)C1=CC=CC=2C=C(OC21)C(=O)[O-].[Li+]
reactant | 1-(pyridin-2-yl)ethanamine | 0.19 mmol, 23 mg | N1=C(C=CC=C1)C(C)N | C7H10N2
product | N-(1-(Pyridin-2-yl)ethyl)-7-(4-(2-(pyridin-2-yl)ethyl)piperazin-1-yl)benzofuran-2-carboxamide | N1=C(C=CC=C1)C(C)NC(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CCC2=NC=CC=C2 | C27H29N5O2
